US04366153
Conc. hydrochloric acid (20.8 g.) was added to a mixture of 7-[2-(2-formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-[1-(3-tert-butoxycarbonylaminopropyl]-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid (syn isomer, 39.1 g.) in methanol (400 ml.), and stirred at room temperature for 4 hours. After removing the solvent in vacuo, tetrahydrofuran (40 ml.) and anisole (40 ml.) were added to the residue and stirred at room temperature for 4 hours. The reaction mixture was added to ethyl acetate at room temperature. The precipitates were collected by filtration and washed with ethyl acetate to give 7-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-[1-(3-aminopropyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid (a mixture of syn and anti isomers). The product was subjected to column chromatography on macroporous nonionic absorption resin "HP-20" (trademark, manufactured by Mitsubishi Chemical Industries Co.) to give the syn isomer of the objective compound.

reactant | hydrochloric acid | 20.8 g | Cl | ClH
reactant | 7-[2-(2-formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-[1-(3-tert-butoxycarbonylaminopropyl]-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | 39.1 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(CCCNC(=O)OC(C)(C)C)SC2=NN=NN2)C(=O)O)C1=O)=NOCC(=O)OC(C)(C)C | C29H38N10O10S3
solvent | methanol | 400 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-[1-(3-aminopropyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(CCCN)SC2=NN=NN2)C(=O)O)C1=O)=NOCC(=O)O | C19H22N10O7S3
